US04236020
Preparation of Poly(oxybutylene) Glycol
200 ml of an acidic ion-exchange resin (Bio-Rad 50W-X2) was added to the mixture and it was stirred for 1.5 hours. 200 ml of toluene was added to the mixture and water was removed by azeotropic distillation. The product was filtered to remove the resin, and the solvent was removed under reduced pressure. The resulting diol (482 g) had a hydroxyl number of 67 mg KOH/g.

reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
reactant | water | O | H2O
product | Poly(oxybutylene) Glycol | CCCCO[C@@H](CC)CO | C8H18O2
